US07244843B2
Step A. Preparation of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-amino-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
A solution of tris(dibenzylideneacetone)dipalladium(0) (14 mg, 15 μmol) and 2-(di-tert-butylphosphino)biphenyl (14.0 mg, 46 μmol) in anhydrous toluene (5.5 mL) was degassed with argon for 15 min at room temperature, then N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (110 mg, 0.25 mmol) was added. Upon further degassing, benzophenone imine (0.14 mg, 0.75 mmol) and sodium tert-butoxide (73 mg, 0.75 mmol) were added. The mixture was degassed a final time and then subjected to microwave conditions (150 W, 150° C.) for 1 h. Upon cooling to room temperature, the mixture was filtered through a pad of diatomaceous earth and the pad was washed with EtOAc (100 mL). The filtrate was concentrated in vacuo and the residue was dissolved in MeOH (10 mL) and cooled to 0° C. To this solution was added sodium acetate (95 mg, 1.4 mmol) and hydroxylamine hydrochloride (150 mg, 1.8 mmol). The reaction was warmed to room temperature and stirred for 1.5 h. Additional amounts of sodium acetate (95 mg, 1.4 mmol) and hydroxylamine hydrochloride (150 mg, 1.8 mmol) were added at 0° C. and the reaction was stirred at room temperature for an additional 2.5 h. The solution was concentrated in vacuo and the residue was partitioned between CH2Cl2 (50 mL) and 1 N NaOH (50 mL). The aqueous phase was extracted with CH2Cl2 (4×75 mL). The combined organic phases were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel, 5–33% EtOAc/hexanes) to provide the product (47 mg) in 50% yield. MS (APCI) 372 (M+H).

reactant | 2-(di-tert-butylphosphino)biphenyl | 46 μmol, 14.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-bromo-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.25 mmol, 110 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)Br)C(F)(F)F)=O)CC1 | C17H18BrF3N2O3
reactant | benzophenone imine | 0.75 mmol, 0.14 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 0.75 mmol, 73 mg | CC(C)([O-])C.[Na+]
reactant | sodium acetate | 1.4 mmol, 95 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.8 mmol, 150 mg | Cl.NO
reactant | sodium acetate | 1.4 mmol, 95 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 1.8 mmol, 150 mg | Cl.NO
solvent | toluene | 5.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 15 μmol, 14 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-amino-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 47 mg, 50% yield | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)N)C(F)(F)F)=O)CC1 | C17H20F3N3O3
